US08431563B2
A 2-L Erlenmeyer flask was charged with 2-piperazinone (36.5 g, 364 mmol, Sigma-Aldrich, St. Louis, Mo.), sodium carbonate (116 g, 1093 mmol), 600 mL of dioxane, and 150 mL of water. To this was slowly added benzyl chloroformate (62.1 g, 364 mmol, Sigma-Aldrich, St. Louis, Mo.) at room temperature over 20 min. After the addition was complete, the mixture was stirred for 2 h and then diluted with water and extracted with EtOAc (2 L). The combined organic extracts were dried (MgSO4), filtered, and concentrated to give a white solid. To this solid was added 500 mL of DCM, triethylamine (128 mL, 911 mmol), DMAP (4.45 g, 36.4 mmol), and di-tert-butyl dicarbonate (119 g, 546 mmol, Sigma-Aldrich, St. Louis, Mo.). After 1 h at room temperature, the mixture was diluted with water and the organics were separated. The organics were dried (MgSO4), filtered, and concentrated to give a brown oil. To this oil was added 100 mL of DCM followed by 1 L of hexane. The resulting white solid was collected by filtration to give 4-benzyl 1-tert-butyl 2-oxo-1,4-piperazinedicarboxylate (101 g).

reactant | 2-piperazinone | 364 mmol, 36.5 g | N1C(CNCC1)=O | C4H8N2O
reactant | sodium carbonate | 1093 mmol, 116 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloroformate | 364 mmol, 62.1 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 911 mmol, 128 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 546 mmol, 119 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
catalyst | DMAP | 36.4 mmol, 4.45 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 150 mL | O | H2O
solvent | hexane | 1 L | CCCCCC | C6H14
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 600 mL | O1CCOCC1 | C4H8O2
product | 4-benzyl 1-tert-butyl 2-oxo-1,4-piperazinedicarboxylate | 101 g | O=C1N(CCN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H22N2O5
